US07452904B2
Intermediate 3: (R)-Benzylphenylcarbamic acid 1-azabicyclo[2.2.2]oct-3-yl ester hydrochloride
To a suspension of 750 mg (2.58 mmol) of 3-quinuclidyl chloroformate hydrochloride in 20 mL of 1,2-DCE, a solution of 395 mg (2.15 mmol) of N-phenylbenzylamine in 5 mL of 1,2-DCE was added dropwise. Once completed the addition, the mixture was refluxed for three hours. The reaction crude was allowed to cool down and the solvent distilled off under reduced pressure. The residue was purified by column chromatography (SiO2, eluent: CHCl3-methanol 10:1) yielding 720 mg (1.95 mmol) of a hygroscopic foam corresponding to the title compound. IR (KBr, cm−1): 3400-3200, 2700-2300, 1700 cm−1. 1H-RMN (CDCl3): 12.30 (s, 1H), 7.20-6.90 (m, 10H), 5.10 (m, 1H), 4.83 (m, 2H), 3.52 (m, 1H), 3.18 (m, 4H), 2.80 (m, 1H), 2.34 (s, 1H), 1.92 (m, 2H), 1.60 (m, 2H).

reactant | 3-quinuclidyl chloroformate hydrochloride | 2.58 mmol, 750 mg | Cl.ClC(=O)OC1CN2CCC1CC2
reactant | N-phenylbenzylamine | 2.15 mmol, 395 mg | C1(=CC=CC=C1)NCC1=CC=CC=C1 | C13H13N
solvent | 1,2-DCE | 20 mL | ClCCCl | C2H4Cl2
solvent | 1,2-DCE | 5 mL | ClCCCl | C2H4Cl2
product | (R)-Benzylphenylcarbamic acid 1-azabicyclo[2.2.2]oct-3-yl ester hydrochloride | Cl.N12C[C@@H](C(CC1)CC2)OC(N(C2=CC=CC=C2)CC2=CC=CC=C2)=O | InChI=1S/C21H24N2O2.ClH/c24-21(25-20-16-22-13-11-18(20)12-14-22)23(19-9-5-2-6-10-19)15-17-7-3-1-4-8-17;/h1-10,18,20H,11-16H2;1H/t20-;/m0./s1
